US05075309
A mixture of 10 parts of phenyl [4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]carbamate monohydrochloride (described in example XVII of U.S. Pat. No. 4,267,179), 3 parts of 2,2-diethoxy-ethanamine and 100 parts of 1,4-dioxane was stirred for 6 hours at reflux temperature. After cooling, the precipitate was filtered off, washed with 1,4-dioxane and purified by column chromatography (silica gel; CHCl3 /CH3OH 99:1). The eluent of the desired fraction was evaporated and the residue was crystallized from 1,4-dioxane, yielding 3.9 parts of N-(2,2-dimethoxyethyl)-N'-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]urea; mp. 225° C. (interm. 8).

reactant | phenyl [4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]carbamate monohydrochloride | Cl.COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O
reactant | 2,2-diethoxy-ethanamine | C(C)OC(CN)OCC | C6H15NO2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(2,2-dimethoxyethyl)-N'-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]urea | COC(CNC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)OC | C22H30N4O4
